Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
vein graft stenosis
 
Major Surgical or Invasive Procedure:
OPERATIONS:
1. Ultrasound-guided puncture of left common femoral
    artery.
2. Contralateral third-order catheterization of the right
    anterior tibial artery.
3. Serial arteriogram of the right lower extremity.
4. Balloon angioplasty of the right common femoral artery
    to the anterior tibial artery vein bypass graft.
5. Balloon angioplasty of the right anterior tibial artery.
6. Perclose closure of the left common femoral arteriotomy.

 
History of Present Illness:
This is a ___ female with
severe peripheral arterial disease who had a previous
revascularization of her right lower extremity with a common
femoral artery to anterior tibial artery vein bypass graft.
She has previously undergone two  angioplasties of the graft
for stenosis at the distal anastomosis. She presents with
recurrent rest pain and a duplex ultrasound showing a
stenosis in the midportion of the graft as well as the distal
anastomosis. She was consented for right lower extremity
arteriogram and possible angioplasty
 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis, CKD, 
peripheral neuropathy  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms, 

recent MIBI ___ wnl 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  
9. Autonomic Dysfunction
10.CKD II, baseline creat 1.3-1.5
11.PAD s/p recent fem-tib bypass RLE ___. Depression
13. DVT
14. ___ EGD ___. Orthostatic hypotension secondary to autonomic dysfunction 
16. PVD
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___
Father - coronary artery disease with MI in her ___, died at age 
___
 
Physical Exam:
PE:

AFVSS

NEURO:

PERRL / EOMI

MAE equally

Answers simple commands

Neg pronator drift

Sensation intact to ST

2 plus DTR

___

___:

NCAT 

Neg lesions nares, oral pharnyx, auditory

Supple / FAROM

neg lyphandopathy, supra clavicular nodes

LUNGS: CTA b/l

CARDIAC: RRR without murmers

ABDOMEN: Soft, NTTP, ND, pos BS, neg CVA tenderness

EXT:

Pulses:  
fem pop ___ DP  
R dopp palp (1+)  
L dopp dopp  

 
Pertinent Results:
___ 06:05AM BLOOD Hct-37.2
___ 06:05AM BLOOD UreaN-20 Creat-1.1 Na-138 K-4.2 Cl-___ was admitted on ___  with vein graft stenois. 
Agreed to have an elective surgery. Pre-operatively, she was 
consented. A CXR, EKG, UA, CBC,  Electrolytes, T/S - were 
obtained,  all other preparations were  made.
 
It was decided that she would undergo:
 
OPERATIONS:
1. Ultrasound-guided puncture of left common femoral
    artery.
2. Contralateral third-order catheterization of the right
    anterior tibial artery.
3. Serial arteriogram of the right lower extremity.
4. Balloon angioplasty of the right common femoral artery
    to the anterior tibial artery vein bypass graft.
5. Balloon angioplasty of the right anterior tibial artery.
6. Perclose closure of the left common femoral arteriotomy.

Prepped, and brought down to the endo suite room for  surgery. 
Intra-operatively, was closely monitored and remained 
hemodynamically stable. Tolerated the procedure well without any 
difficulty or complications.
 
Post-operatively, transferred to the PACU for further 
stabilization and monitoring. 
 
Was then transferred to the VICU for further recovery. While in 
the VICU,  received monitored care. When stable was delined. 
Diet was advanced.  
 
When stabilized from the acute setting of post operative care, 
was then transferred to floor status.
 
On the floor, remained hemodynamically stable with pain 
controlled. Continues to make steady progress without any 
incidents. Discharged home in stable condition.
 
Received preoperative hydration. On DC the creatinine is stable.

 
Medications on Admission:
Calcitriol 0.5 mcg, Citalopram 40 mg, Clopidogrel 75 mg, 
Cyclosporine 0.05 % Dropperette 2 gtts ___ bid, Erythromycin 5 
mg/gram Ointment ___ bid, Gabapentin 800 qam, Lantus 12U HS units 
at bedtime, Humalog 100 unit/mL Cartridge on insulin pump basal 
rate; 12am-4am 0.25 units hr 4a 0.15 units hr 5a 0.60 unit hr 
8am 0.70 unit hr 8pm 0.50 unit hr 10pm 0.40 unit hr, 
Levothyroxine 75 mcg, Lorazepam 0.5 qpm, Metoclopramide 10 mg 
Tablet 1 (One) Tablet(s) by mouth 30 minutes before meals 
Oxycodone 5 mg Tablet ___ Tablet(s) by mouth daily as needed for 
pain Oxycodone 10 mg Tablet Sustained Release 12 hr 4 Tablet(s) 
by mouth in the morning and 1 tab by mouth in the evening, 
Pantoprazole 40 mg Tablet, Delayed Release (E.C.) 1 Tablet(s) by 
mouth once a day, Simvastatin [Zocor] 40 mg Tablet 1 Tablet(s) 
by mouth qpm, Chantix, ASA 81mg, Calcium Carbonate 1500 mg qd, 
Vitamin B12, folat MVI, Fish Oil, NaCl 2 gram BID 
 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain: prn pain.
Disp:*30 Tablet(s)* Refills:*0*
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
6. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Oxycodone 40 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO DAILY (Daily).  
8. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO QPM (once a day (in the 
evening)).  
9. Insulin Pump IR1250     Misc Sig: One (1)  Miscellaneous once 
a day.  
10. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)).  
12. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
13. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day): please take instead of Pantoprazole while on 
plavix .
Disp:*60 Tablet(s)* Refills:*0*
14. Lantus 100 unit/mL Solution Sig: One (1)  Subcutaneous once 
a day: 12 units ___.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vein graft stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•Take Aspirin 325mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___